US08293768B2
Synthesis of ethyl 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)thiazole-5-carboxylate
Following the procedure as described in Example 5, making variations to replace benzyl bromide with 1-iodopentane to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 69% yield: 1H NMR (300 MHz, CDCl3) δ 4.23 (q, J=7.2 Hz, 2H), 4.11-3.87 (m, 2H), 3.64-3.43 (m, 2H), 3.26 (t, J=7.5 Hz, 2H), 2.63 (s, 3H), 1.61-1.18 (m, 9H), 0.74 (t, J=7.2 Hz, 3H); MS (ES+) m/z 326.3 (M+1).

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-iodopentane | ICCCCC | C5H11I
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)thiazole-5-carboxylate | 69% yield | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CCCCC)=O | C15H23N3O3S
